US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-(1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Here, 3-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-propionaldehyde (1.5 g, 0.0054 mol) and 2-amino-1,2,3,4-tetrahydronaphthalene (0.8 g, 0.0054 mol) are hydrogenated in ethanol (150 ml) in the presence of 10% palladium/charcoal (0.5 g) for 15 hours under pressure (5 bar) at 60° C. The catalyst is removed by suction filtering, the filtrate is concentrated in vacuo and the residue is purified over silica gel by column chromatography with methylene chloride and increasing amounts of ethanol (up to 4%). The clean fractions are concentrated by evaporation and the hydrochloride is precipitated from acetone. Yield: 1.35 g. Mp: 229°-230° C.

reactant | 3-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-propionaldehyde | 0.0054 mol, 1.5 g | COC1=CC2=C(CC(N(C=C2)CCC=O)=O)C=C1OC | C15H17NO4
reactant | 2-amino-1,2,3,4-tetrahydronaphthalene | 0.0054 mol, 0.8 g | NC1CC2=CC=CC=C2CC1 | C10H13N
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.5 g | [Pd] | Pd
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-(1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCNC2CC3=CC=CC=C3CC2)=O)C=C1OC | C25H32N2O3
